US07557213B2
Experimental conditions analogous to those described for Step 3 of Example 1 were used with 0.100 g (0.359 mmol) of 3-(3,4-Dimethyl-benzoyl)-1H-[1,5]naphthyridin-4-one, 17.2 mg (0.431 mmol, 60% dispersion in oil) of sodium hydride, 80.2 mg (0.431 mmol) of 2-methyl-6-bromomethyl-pyridine and 3.5 mL of N,N dimethylformamide. The crude brown solid was purified on the reverse phase HPLC with a C18 column, gradient of 20-70% acetonitrile—0.1% TFA to yield 61.7 mg of 3-(3,4-Dimethyl-benzoyl)-1-(6-methyl-pyridin-2-ylmethyl)-1H-[1,5]naphthyridin-4-one as an off white solid. LC-MSD, m/z for C24H21N3O2 [M+H]: 384.2 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 1.8 min

reactant | 3-(3,4-Dimethyl-benzoyl)-1H-[1,5]naphthyridin-4-one | 0.359 mmol, 0.100 g | CC=1C=C(C(=O)C2=CNC3=CC=CN=C3C2=O)C=CC1C | C17H14N2O2
reactant | sodium hydride | 0.431 mmol, 17.2 mg | [H-].[Na+]
reactant | 2-methyl-6-bromomethyl-pyridine | 0.431 mmol, 80.2 mg | CC1=NC(=CC=C1)CBr | C7H8BrN
solvent | N,N dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
product | 3-(3,4-Dimethyl-benzoyl)-1-(6-methyl-pyridin-2-ylmethyl)-1H-[1,5]naphthyridin-4-one | 61.7 mg | CC=1C=C(C(=O)C2=CN(C3=CC=CN=C3C2=O)CC2=NC(=CC=C2)C)C=CC1C | C24H21N3O2
